* File: hw3_part1.pex.spi.pex
* Created: Tue Nov 23 22:04:25 2021
* Program "Calibre xRC"
* Version "v2021.1_33.19"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_HW3_PART1%Q 2 7 9 30 41 53
c0 71 0 0.082239f
c1 65 0 0.0732527f
c2 63 0 0.0644362f
c3 59 0 0.127294f
c4 57 0 0.0854732f
c5 53 0 0.240562f
c6 44 0 0.391844f
c7 37 0 0.055028f
c8 35 0 0.0510531f
c9 21 0 0.0857948f
c10 18 0 0.123481f
c11 12 0 0.169181f
c12 7 0 0.1717f
c13 5 0 0.2322f
r14 63 64 0.0800745
r15 57 71 0.0453582
r16 57 63 8
r17 56 59 5.92105
r18 56 57 13.2552
r19 51 59 5.62351
r20 51 53 99
r21 48 59 5.62351
r22 44 46 0.2
r23 43 46 16.3327
r24 43 44 5.44423
r25 41 43 1.152
r26 38 65 0.060729
r27 37 39 0.0453582
r28 37 38 8
r29 34 44 0.375
r30 34 35 0.0296412
r31 30 71 0.133
r32 28 35 0.00770322
r33 28 30 0.063
r34 24 35 0.0296412
r35 21 65 0.0142401
r36 20 21 0.364929
r37 19 64 0.0131361
r38 18 20 0.0363174
r39 18 19 0.244214
r40 12 39 0.251
r41 11 12 16.3327
r42 9 11 4.572
r43 7 48 58.25
r44 5 24 0.254
r45 4 5 16.3327
r46 2 4 4.572
.ends

.subckt PM_HW3_PART1%VSS 2 7 9 53
c0 48 0 0.132957f
c1 32 0 0.0255594f
c2 31 0 0.15648f
c3 24 0 0.0903618f
c4 12 0 0.139002f
c5 5 0 0.168779f
r6 47 48 8.16635
r7 45 53 0.12
r8 44 47 8.64
r9 44 45 16.3327
r10 40 53 0.0718
r11 40 50 0.1582
r12 39 40 5.44423
r13 36 50 0.0195555
r14 35 39 17.28
r15 35 36 16.3327
r16 31 45 0.012
r17 31 32 0.0296412
r18 30 48 0.014
r19 30 32 0.0296412
r20 27 32 0.00770322
r21 24 36 0.0195555
r22 12 27 0.142
r23 11 12 16.3327
r24 9 11 4.608
r25 7 44 8.622
r26 7 39 8.64
r27 5 24 0.142
r28 4 5 16.3327
r29 2 4 4.608
.ends

.subckt PM_HW3_PART1%VDD 6 7 14 41
c0 42 0 0.0224261f
c1 41 0 0.0188402f
c2 17 0 0.350421f
c3 10 0 0.29218f
c4 4 0 0.0114217f
r5 34 41 16.3327
r6 31 34 8.64
r7 31 32 16.3327
r8 27 32 0.1918
r9 27 37 0.1582
r10 26 27 5.44423
r11 23 42 0.0195555
r12 23 37 0.0195555
r13 22 26 17.28
r14 22 23 16.3327
r15 17 20 0.2
r16 16 20 16.3327
r17 16 17 5.44423
r18 14 16 1.1475
r19 13 42 0.262
r20 10 13 0.2
r21 9 13 16.3327
r22 9 10 5.44423
r23 7 9 1.143
r24 6 31 12.942
r25 6 26 4.32
r26 4 32 0.012
r27 4 5 0.0296412
r28 3 41 0.014
r29 3 5 0.0296412
r30 2 20 0.262
r31 2 5 0.00770322
.ends

.subckt PM_HW3_PART1%QB 1 3 9 23 42 54
c0 65 0 0.166844f
c1 60 0 0.12749f
c2 54 0 0.244505f
c3 45 0 0.411375f
c4 40 0 0.0899141f
c5 37 0 0.0503787f
c6 32 0 0.104438f
c7 30 0 0.0329657f
c8 27 0 0.0750272f
c9 21 0 0.0276029f
c10 20 0 0.487374f
c11 19 0 0.282313f
c12 12 0 0.104788f
c13 6 0 0.190411f
c14 1 0 0.16864f
r15 58 65 0.122267
r16 57 60 5.90526
r17 57 58 13.2552
r18 52 60 5.62351
r19 52 54 99
r20 49 60 5.62351
r21 45 47 0.2
r22 44 47 16.3327
r23 44 45 5.44423
r24 42 44 1.1475
r25 38 40 0.122
r26 36 45 0.362
r27 36 37 0.0296412
r28 33 40 0.00411102
r29 31 38 0.00411102
r30 31 32 0.411
r31 30 38 0.00411102
r32 29 30 0.084
r33 28 37 0.00770322
r34 27 32 0.039111
r35 27 28 0.088
r36 24 37 0.0296412
r37 21 23 0.308
r38 20 29 0.039111
r39 20 23 0.513
r40 19 65 0.0126889
r41 18 21 0.039111
r42 18 19 0.539
r43 12 33 0.144
r44 11 12 16.3327
r45 9 11 4.608
r46 6 24 0.267
r47 5 6 16.3327
r48 3 5 4.572
r49 1 49 58.25
.ends

.subckt PM_HW3_PART1%CLK 1 2 20
c0 20 0 0.0894851f
c1 15 0 0.120859f
c2 2 0 0.163926f
c3 1 0 0.157573f
r4 15 20 13.2552
r5 12 15 5.92105
r6 9 12 5.62351
r7 6 12 5.62351
r8 2 9 59
r9 1 6 57.5
.ends

.subckt PM_HW3_PART1%R 2 10
c0 10 0 0.141909f
r1 5 10 0.057
r2 4 5 16.3327
r3 2 4 4.572
.ends

.subckt PM_HW3_PART1%S 2 12
c0 5 0 0.140994f
r1 5 12 0.053
r2 4 5 16.3327
r3 2 4 4.608
.ends

